US05935973
A mixture of 2-fluoro-6-trifluoromethylbenzaldehyde (25 g) and aqueous sodium hydroxide solution (0.5 M; 866 ml) was stirred and heated at 80° C. under nitrogen for 43 hours. The cooled solution was washed with ether (2×350 ml), acidified with concentrated hydrochloric acid, then extracted with ether (2×500 ml). The combined extracts were dried over magnesium sulphate and the solvent removed in vacuo. The residue was purified by flash chromatography over silica eluting with a 95:5 mixture of dichloromethane and methanol. Appropriate fractions were combined and the solvent removed in vacuo to give 2-hydroxy-6-trifluoromethylbenzaldehyde (6.2 g) as an oil.

reactant | 2-fluoro-6-trifluoromethylbenzaldehyde | 25 g | FC1=C(C=O)C(=CC=C1)C(F)(F)F | C8H4F4O
reactant | sodium hydroxide | 0.5 M, 866 ml | [OH-].[Na+]
product | 2-hydroxy-6-trifluoromethylbenzaldehyde | 6.2 g | OC1=C(C=O)C(=CC=C1)C(F)(F)F | C8H5F3O2
